Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue/Weakness/Diarrhea/Dysuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ ___ male with chronic weakness 
from CIDP s/p PLEX and IVIG, T2DM, AF, HFrEF s/p AICD, who 
presented to the ED on ___ from his IVIG infusion clinic for 
weakness and lethargy.

Patient stated that he has had non-bloody diarrhea for the last 
4 days and has felt fatigued and weak. He has had decreased PO 
intake of food and drink in this setting. He denied any chest 
pain or shortness of breath, no fever or chills.

In the ED, initial vital signs were notable for; 
Temp 98.6  HR 118  BP 118/87  RR 20  SaO2 95% RA

Exam notable for:
Patient is pale appearing and weak. Abdomen is soft 
nondistended.

Labs were notable for:
137  99  25
------------- < 104
3.7  19  0.8
      
      9.7
11.5 >----< 327
      30.7

- UA: large leuk, small bld, pos nitrites, trace protein, WBC 
>182, few bacteria CastHy: 29, WBC-Clm: Few
- C. diff positive

Studies performed include;
- CXR: No evidence of pneumonia
- EKG: SR at 111 bpm, ICD paced, no ST elevations, normal axis 
and intervals. QRS 124 QTc 514.

Patient was given;
- IV metro, IV ceftriaxone (___)
- PO vanc (___)
- IVF NS 500 ml, LR 500 ml
- atorvastatin 40 mg
- lisinopril 2.5 mg
- ondansetron 4 mg
- oxycodone 5mg, lidocaine 5% patch, acetaminophen 650 mg

Vitals on transfer;
Temp: 97.8 PO BP: 112/71 HR: 83 RR: 18 O2 sat: 95% O2 delivery: 
RA 

Upon arrival to the floor, the patient confirmed the history as 
above. He has had ___ nonbloody diarrhea daily for the past 4 
days. He endorses burning with urination for the past several 
days. He has had decreased appetite due to nausea. No vomiting, 
abdominal pain, fevers, chills, chest pain, or shortness of
breath. He is ___ and lives at a nursing facility where he 
does ___.
 
Past Medical History:
- Chronic inflammatory demyelinating polyneuropathy s/p plasma
exchange and IVIG
- Inflammatory Polyarthralgia
- CHF with EF of 37% status post AICD-not MRI compatible
___ XT CDT-D 98% paced)
- Atrial fibrillation                      
- Arthropathic psoriasis
- Insulin-dependent type 2 diabetes
- Hyperlipidemia
- Obesity
- Testicular hypofunction
- OSA on nocturnal oxygen (did not tolerate CPAP)
- History of hyperkalemia
 
Social History:
___
Family History:
Sister with history of rheumatoid arthritis. 

 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: Temp 97.8  BP 112/71  HR 83  RR 18  SaO2 95% O2 delivery: RA 
 
GENERAL: Alert and interactive, arms are painful from being in 
the ED
HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Sclera 
anicteric and without injection. Dry mucous membranes. 
Oropharynx is clear.
CARDIAC:  Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops. No JVD.
LUNGS: Clear to auscultation on the right, unable to auscultate 
the left due to patient positioning. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Soft, non-tender, non-distended, normal bowels sounds.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 grossly intact. ___ strength un UEs, ___ 
strength in LEs. AOx3.

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: Temp: 97.9 (Tm 98.6), BP: 122/71 (102-122/56-73), HR: 77
(77-91), RR: 18 (___), O2 sat: 95% (92-95), O2 delivery: RA

GENERAL: lying comfortably in bed, no acute distress
HEENT: no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, no JVD but patient lying flat
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles but limited to anterior exam
___: soft, non-tender, distention at baseline, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, ___ strength in upper extremities but stronger 
proximal than distal and left greater than right, ___ strength 
in lower extremities
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 01:30PM BLOOD WBC-13.6* RBC-3.59* Hgb-9.8* Hct-31.3* 
MCV-87 MCH-27.3 MCHC-31.3* RDW-16.4* RDWSD-52.2* Plt ___
___ 01:30PM BLOOD Neuts-86.6* Lymphs-5.4* Monos-3.6* 
Eos-2.5 Baso-0.7 Im ___ AbsNeut-11.76* AbsLymp-0.73* 
AbsMono-0.49 AbsEos-0.34 AbsBaso-0.09*
___ 01:30PM BLOOD Glucose-105* UreaN-30* Creat-0.7 Na-134* 
K-3.5 Cl-98 HCO3-19* AnGap-17
___ 01:36PM BLOOD Lactate-1.2

======
MICRO:
======

___ Blood culture x2 - no growth at time of discharge
___ C. difficile DNA - positive

___ Urine culture 
         PSEUDOMONAS AERUGINOSA    >100,000 CFU/mL
         ENTEROCOCCUS SP           >100,000 CFU/mL

         SENSITIVITIES: MIC expressed in MCG/ML             
__________________________________________________
                   PSEUDOMONAS AERUGINOSA
                                  ENTEROCOCCUS SP.
                               
AMPICILLIN------------              <=2 S
CEFEPIME--------------     4 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------   <=1 S
GENTAMICIN------------     2 S
MEROPENEM-------------       S
NITROFURANTOIN--------             <=16 S
PIPERACILLIN/TAZO-----   <=8 S
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------   <=1 S
VANCOMYCIN------------                1 S

================
IMAGING/REPORTS:
================

___ CXR
Lateral view is limited secondary to arms being down by 
patient's side.  Right PICC is seen with tip at the lower SVC. 
Left chest wall triple lead pacing device is again noted. There 
is no confluent consolidation. No effusion. The 
cardiomediastinal silhouette is within normal limits. No acute 
osseous abnormalities. 

=====================
OTHER PERTINENT LABS:
=====================

___ 06:40AM BLOOD Ret Aut-1.0 Abs Ret-0.03
___ 06:40AM BLOOD calTIBC-198* Ferritn-148 TRF-152*

===============
DISCHARGE LABS:
===============

___ 05:16AM BLOOD WBC-12.8* RBC-3.25* Hgb-8.9* Hct-28.2* 
MCV-87 MCH-27.4 MCHC-31.6* RDW-16.2* RDWSD-51.3* Plt ___
___ 05:16AM BLOOD Glucose-121* UreaN-8 Creat-0.7 Na-139 
K-4.0 Cl-99 HCO3-29 AnGap-11
___ 05:16AM BLOOD Calcium-9.1 Phos-3.5 Mg-1.___ with a background history of CIDP, status plasma exchange 
and on monthly IVIG infusions, type II diabetes mellitus, atrial 
fibrillation, HFrEF status post BIV placement, who presented to 
ED on ___ from his IVIG infusion clinic with weakness, 
lethargy and diarrhea.

====================
ACUTE/ACTIVE ISSUES:
====================

# C. difficile colitis
Patient presented with ___ days of non-bloody diarrhea, with 
lower abdominal discomfort, nausea and decreased appetite. Found 
to be C. diff positive at facility, but unclear if he was 
started on vancomycin. Received IV metronidazole and PO 
vancomycin in ED, before transitioning to PO vancomycin alone 
(125mg Q6H) on the floor. Weakness/lethargy was likely secondary 
to C. diff, UTI and decreased PO intake. Frequency of diarrhea 
and energy improved with treatment. Patient will continue PO 
vancomycin for 14 days post completion of antibiotics for UTI 
(last day ___.

# Pseudomonas aeruginosa UTI
# Enterococcus UTI
Over same time period, patient reported dysuria and urinary 
frequency. Given chronic weakness secondary to CIDP, uses condom 
catheter at facility. Urine culture was positive for Pseudomonas 
aeruginosa alone initially, for which he was started on IV 
ceftriaxone and metronidazole in ED, before transitioning to IV 
cefepime on the floor. Increasing leukocytosis morning of ___, 
with enterococcus also noted to be growing in urine. Vancomycin 
was started and continued for 24 hours. Based on culture 
sensitivities, patient was transitioned to nitrofurantoin 100mg 
BID (last day ___ and ciprofloxacin 500mg BID (last day 
___. Symptoms improved over the course of the admission. 

# Normocytic, hypochromic anemia
On admission, hemoglobin 9.8, which was at most recent baseline 
between ___. Baseline previously ___, but since ___, 
baseline as above. Ferritin was 148 and transferrin saturation 
~15%. Remained stable throughout admission. Consider PO or IV 
iron supplementation. 

======================
CHRONIC/STABLE ISSUES:
======================
# CIDP
Received half dose of IVIG day of admission. Continued 
gabapentin 300mg TID for neuropathic pain. Outpatient 
neurologist was emailed prior to discharge to set up future 
dates for IVIG infusions. She will contact patient/facility to 
set up further dates for IVIG infusions. 

# Type II diabetes mellitus
Continued reduced dose NPH 16 units at breakfast/bedtime as 
patient oral intake was poor on admission, but increased back to 
home regimen of 20 units BID as appetite improved. Humalog 
sliding scale was also started during inpatient stay. 

# Chronic HFrEF (EF most recently 40-45%) 
Home furosemide and lisinopril were held initially in setting of 
hypotension, but were restarted. Home metoprolol was 
fractionated to metoprolol tartrate 6.25mg Q6H while an 
inpatient. Continued aspirin 81mg daily and atorvastatin 40mg 
daily. 

# GI
Home bowel regimen was held in setting of diarrhea. Continued 
home pantoprazole 40mg daily.  

# Depression/adjustment disorder
Continued home sertraline 100mg daily. 

# OSA
Patient unable to tolerate CPAP given claustrophobia. Continued 
home 2L nasal cannula overnight. 

# Testicular hypofunction
Receives two weekly testosterone cypionate 200mg injections, 
which he will be due as scheduled post discharge.

# Chronic pain
Continued acetaminophen 1g TID:PRN and oxycodone 5mg Q4H:PRN. 

# Gout
Continued allopurinol ___ daily. 

====================
TRANSITIONAL ISSUES:
====================

- discharge WBC 12.8
- discharge magnesium 1.7 (pre 2g IV magnesium)

MEDICATION CHANGES:
[] ciprofloxacin 500mg twice daily (last day ___
[] nitrofurantoin 100mg twice daily (last day ___
[] PO vancomycin 125mg four times daily (last day ___
[] magnesium oxide 400mg daily for five days
[] held bisacodyl, docusate, fleet enema, lactulose, 
polyethelene glycol

[] C. DIFF: continue PO vancomycin 125mg Q6H for two weeks post 
completion of antibiotics for UTI (last day ___ 14 days 
following last day of abx ___
[] IVIG INFUSIONS: outpatient neurologist will contact 
patient/facility to arrange further IVIG infusions
[] TESTICULAR HYPOFUNCTION: testosterone injection every two 
weeks
[] HYPOMAGNESEMIA: five days of magnesium oxide 400mg daily on 
discharge, please recheck magnesium level on ___
[]Anemia: Normocytic hypochromic anemia, requires further workup 
as an outpatient but likely combination of iron deficiency and 
anemia of chronic disease.  Ensure patient uptodate on 
colonoscopy.
 
===============================================
#CODE: Full (presumed)
#CONTACT: ___, HCP/wife, ___ 
 
Medications on Admission:
1. Acetaminophen 975 mg PO Q6H:PRN Pain - Mild 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Calcium Carbonate 500 mg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Gabapentin 300 mg PO TID 
7. Heparin 5000 UNIT SC Q12H 
8. Lactulose 30 mL PO DAILY:PRN constipation 
9. Pantoprazole (Granules for ___ ___ 40 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
11. Sertraline 100 mg PO DAILY 
12. Vitamin D 1000 UNIT PO 2 TABLETS DAILY  
13. Docusate Sodium 100 mg PO BID 
14. Multivitamins W/minerals 1 TAB PO DAILY 
15. Lisinopril 5 mg PO DAILY 
16. Metoprolol Succinate XL 25 mg PO DAILY 
17. Atorvastatin 40 mg PO QPM 
18. Bisacodyl ___AILY:PRN constipation 
19. Fleet Enema (Saline) ___AILY:PRN constipation 
20. NPH 20 Units Breakfast
NPH 20 Units Dinner
Insulin SC Sliding Scale using Lispro Insulin
21. Lidocaine Jelly 2% 1 Appl TP TID:PRN pain 
22. Lidocaine 5% Patch 2 PTCH TD QAM 
23. Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO QID:PRN 
dyspepsia 
24. Milk of Magnesia 30 mL PO Q6H:PRN Constipation 
25. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
26. Triad Wound Dressing (wound dressings) Dose is Unknown  
topical Daily 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 1 Day 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*3 Tablet Refills:*0 
2.  Magnesium Oxide 400 mg PO DAILY Duration: 5 Days 
RX *magnesium oxide 400 mg 1 tablet(s) by mouth Daily Disp #*5 
Tablet Refills:*0 
3.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 5 
Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*7 Capsule Refills:*0 
4.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin 125 mg/2.5 mL 1 syringe(s) by mouth four times a 
day Disp #*230 Syringe Refills:*0 
5.  NPH 20 Units Breakfast
NPH 20 Units Dinner
Insulin SC Sliding Scale using Lispro Insulin 
6.  Acetaminophen 975 mg PO Q6H:PRN Pain - Mild  
7.  Allopurinol ___ mg PO DAILY  
8.  Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO QID:PRN 
dyspepsia  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 40 mg PO QPM  
11.  Calcium Carbonate 500 mg PO DAILY  
12.  Furosemide 40 mg PO DAILY  
13.  Gabapentin 300 mg PO TID  
14.  Heparin 5000 UNIT SC Q12H  
15.  Lidocaine 5% Patch 2 PTCH TD QAM  
16.  Lidocaine Jelly 2% 1 Appl TP TID:PRN pain  
17.  Lisinopril 5 mg PO DAILY  
18.  Metoprolol Succinate XL 25 mg PO DAILY  
19.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation  
20.  Multivitamins W/minerals 1 TAB PO DAILY  
21.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
22.  Pantoprazole (Granules for ___ ___ 40 mg PO DAILY  
23.  Sertraline 100 mg PO DAILY  
24.  Vitamin D 1000 UNIT PO 2 TABLETS DAILY   
25. HELD- Bisacodyl ___AILY:PRN constipation  This 
medication was held. Do not restart Bisacodyl until diarrhea has 
resolved
26. HELD- Docusate Sodium 100 mg PO BID  This medication was 
held. Do not restart Docusate Sodium until diarrhea has resolved
27. HELD- Fleet Enema (Saline) ___AILY:PRN constipation 
 This medication was held. Do not restart Fleet Enema (Saline) 
until diarrhea has resolved
28. HELD- Lactulose 30 mL PO DAILY:PRN constipation  This 
medication was held. Do not restart Lactulose until diarrhea has 
resolved
29. HELD- Polyethylene Glycol 17 g PO DAILY  This medication was 
held. Do not restart Polyethylene Glycol until diarrhea has 
resolved

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSES:
==================

Clostridium difficile colitis
Pseudomonas aeruginosa/Enterococcus urinary tract infection
Normocytic, hypochromic anemia

====================
SECONDARY DIAGNOSES:
====================

Chronic inflammatory demyelinating polyneuropathy 
Type II diabetes mellitus
Chronic heart failure with reduced ejection fraction
Depression/Adjustment disorder
Obstructive sleep apnea
Testicular hypofunction
Chronic pain
Gout
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Mr. ___,

WHY YOU CAME TO THE HOSPITAL
You were admitted to ___ with fatigue, weakness, diarrhea and 
burning on urination

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You received IV fluids in the ED as your blood pressure was 
low
- You were found to have C. diff as the cause for your diarrhea, 
for which we started antibiotics 
- You were also found to have two bugs in your urine, for which 
we also started antibiotics 
- We changed your antibiotics to oral tablets which were active 
against these bugs

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- You need to arrange follow up with your PCP when you are 
discharged from rehab
- Your neurologist will contact you to see up further doses of 
IVIG
- It is important you continue to take all medications as 
prescribed 

It was a pleasure taking care of you!

Your ___ Healthcare Team

MEDICATION CHANGES:
[] ciprofloxacin 500mg twice daily (last day ___
[] nitrofurantoin 100mg twice daily (last day ___
[] PO vancomycin 125mg four times daily (last day ___
[] magnesium oxide 400mg daily for five days
[] held bisacodyl, docusate, fleet enema, lactulose, 
polyethelene glycol
 
Followup Instructions:
___